Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Zyprexa / iodine / ceftriaxone / Sulfa (Sulfonamide Antibiotics) 
/ codeine
 
Attending: ___
 
Chief Complaint:
Code Stroke
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is an ___ with longstanding AF on Coumadin (per
daughter INR typically about 2), stents on Plavix, history of
prior small strokes ___ years ago), CHF, recurrent UTIs with
pessaries in place, profound hearing loss p/w R sided weakness
and decreased verbal output. 

Of note, patient has profound hearing loss and was confused (s/p
Ativan at OSH) and unable to participate in history taking.
History obtained by patient's son and daughter and ___ team. 

Patient lives with her daughter. Per daughter, patient has had a
URI for three days but has otherwise been at baseline. Patient
was last seen well at 13:30 on ___ before taking a nap.
Daughter was going out of the house (care provider ___, so
daughter awoke mother to use the bathroom. When patient tried to
get up out of bed daughter noticed that she was only using her
LUE to push up off the bed and that her right arm was by her
side, right leg was not moving, and that she was not talking as
much as usual. She did not smile so daughter reports she did not
initially notice any facial droop. 

Daughter called ___, and patient was taken to ___. There she
had a CT and MRI with the MRI showing multiple small areas of
restricted diffusion on the left. Patient was transferred to
___ where a code stroke was called on arrival. A Foley was
placed at ___ and ___ was given Ativan. Per daughter,
someone mentioned that patient was noted to be urinating "out of
two holes." Daughter notes that patient has two pessaries in
place and gets frequent UTIs. 

Per ___ resident, examination was limited by patient hearing loss
and agitation, difficulty cooperating. Patient awake and 
speaking
but not answering questions (per son nearly completely deaf). ___
resident noted right facial droop, right UE at least 
anti-gravity
but with some drift, patient seeming to at least respond to pain
(PIV placement) on right.  

Patient unable to complete review of systems. Daughter reports
patient with three days of URI symptoms, no fevers. Does have
recurrent UTIs. Did not take any of her medications this 
morning.
No baseline weakness or numbness apart from subtle right facial
at baseline. No recent vomiting or diarrhea per daughter. Does
have ___ skin infection for which recently seen by the PCP, does
have easy bruising at baseline, no other rashes. Patient walks
with a walker and has gait difficulties at baseline due to a bad
right leg and hip. Has Afib at baseline on Coumadin and digoxin.
Per daughter, patient is fairly irritable and often agitated at
baseline, swears frequently, is hard of hearing so does not 
carry
on conversations well. 

 
Past Medical History:
Atrial fibrillation on Coumadin and digoxin
HTN
HLD
Prior small strokes about ___ years ago, further details
unknown
Stents about ___ years ago, further details unknown
CHF
Pseudogout
Recurrent UTIs
Uterine prolapse with pessaries in place
 
Social History:
___
Family History:
Unknown.
 
Physical Exam:
==============
ADMISSION EXAM
==============
VS T: 98.7 HR: 83 BP: 146/83 RR: 16 SaO2: 94% RA 
 - General/Constitutional: Sitting up elderly woman swearing and
saying she wants to go home frustrated but non-toxic appearing
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: RRR, no M/R/G  
Pulmonary: no increased WOB
Abdomen: Soft, NT, ND, +BS, no guarding  
Extremities: Warm, no edema  

Neurologic Examination:  
MS: Awake, alert. Very hard of hearing (per family nearly
completely deaf). Agitated, taking blankets off and trying to 
get
up and out of bed. Saying "I don't like you and I don't like you
and I don't like you" (going around the room and pointing at 
each
person) "I don't want to know who you are," (when RN introduces
self) "I don't want any of these," and "I want to go home," and
swearing. Repetition grossly intact (repeats "your name" a few
times when examiner repeatedly very loudly asks her name but 
does
not say her own name). Will eventually squeeze examiner's hand
with her left hand to command and close eyes (when demonstrating
repeatedly by examiner and daughter), eventually with
demonstrating will mimic and keep extremities up but further
strength testing limited. Withdraws all 4 to touch including 
when
stimulating both sides simultaneously. 
 
Cranial Nerves - PERRL 1 to 0.5 bilaterally. Responds to visual
stimuli in all quadrants, tracks faces. Pulls head away to light
touch of face. Right lower face slower to activate and 
incomplete
activation. Hearing quite impaired (as above, does once repeat
one or two words). Will not protrude tongue to command.  

Motor - No drift appreciated (with demonstrating and
encouragement eventually get patient to keep UE bilaterally up
for 10 seconds each). No tremor or asterixis appreciated. 
Patient
is able to sit herself up and move around in bed, scoot forward,
briskly and strongly withdraw both UE when ___ team trying to
place IV, at least AG at the IPs, quads, hamstrings, and TAs
bilaterally.   
Sensory - As above, withdraws bilateral UE and ___ to light touch
including when stimulating both sides at once (no obvious
extinction to DSS though with eyes open - could not get patient
to participate in dedicated testing of sensation so obtained
observationally)  

DTRs:  
     [Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      1+       
     R  2+    2+     2+      1+         
Plantar response flexor bilaterally.  

Coordination - No dysmetria with reaching for blankets or IVs or
crossing and uncrossing ankles.  

Gait - Deferred.

==============
DISCHARGE EXAM
==============
Slight RUE drift, slight R NLFF. Otherwise unchanged. 

 
Pertinent Results:
====
LABS
====

___ 08:30PM BLOOD WBC-9.1 RBC-4.15 Hgb-12.8 Hct-38.0 MCV-92 
MCH-30.8 MCHC-33.7 RDW-14.4 RDWSD-48.2* Plt ___
___ 08:30PM BLOOD Neuts-86.0* Lymphs-4.8* Monos-6.7 Eos-1.9 
Baso-0.1 Im ___ AbsNeut-7.83* AbsLymp-0.44* AbsMono-0.61 
AbsEos-0.17 AbsBaso-0.01
___ 07:20AM BLOOD WBC-6.5 RBC-4.43 Hgb-12.9 Hct-41.0 MCV-93 
MCH-29.1 MCHC-31.5* RDW-14.5 RDWSD-49.0* Plt ___
___ 07:20AM BLOOD Neuts-79.0* Lymphs-8.8* Monos-9.4 Eos-2.0 
Baso-0.3 Im ___ AbsNeut-5.15 AbsLymp-0.57* AbsMono-0.61 
AbsEos-0.13 AbsBaso-0.02
___ 08:30PM BLOOD ___ PTT-40.5* ___
___ 07:20AM BLOOD ___ PTT-38.3* ___
___ 08:30PM BLOOD Glucose-114* UreaN-14 Creat-0.8 Na-140 
K-3.7 Cl-102 HCO3-25 AnGap-17
___ 07:20AM BLOOD Glucose-90 UreaN-13 Creat-0.7 Na-141 
K-3.4 Cl-102 HCO3-25 AnGap-17
___ 07:20AM BLOOD ALT-10 AST-17 LD(LDH)-228 AlkPhos-120* 
TotBili-0.6
___ 07:20AM BLOOD GGT-10
___ 07:20AM BLOOD cTropnT-<0.01
___ 07:20AM BLOOD TotProt-6.3* Albumin-3.7 Globuln-2.6 
Cholest-129
___ 07:20AM BLOOD %HbA1c-5.6 eAG-114
___ 07:20AM BLOOD Triglyc-100 HDL-54 CHOL/HD-2.4 LDLcalc-55
___ 07:20AM BLOOD TSH-2.1
___ 07:20AM BLOOD CRP-72.2*

=======
IMAGING
=======
MRI brain ___ (OSH): Multiple areas of restricted diffusion 
in
the L MCA territory 

CT head ___ (OSH): Atrophy; multiple (___) small areas of
hypodensity on the left ___ grey  
 
Brief Hospital Course:
___ with longstanding AF on Coumadin (per daughter INR 
typically about 2), stents on Plavix, history of prior small 
strokes ___ years ago), CHF, recurrent UTIs with pessaries in 
place, profound hearing loss p/w R sided weakness and decreased 
verbal output. Exam was limited by patient uncooperativeness but 
there were findings of right nasolabial fold flattening and very 
slight right pronator drift, but she was essentially at 
baseline. MRI showed multiple punctate areas of restricted 
diffusion in the left MCA territory. She was already therapeutic 
on her Coumadin at the time of presentation (INR 3.1) so no 
changes in management were made. She was evaluated by ___ and 
cleared for home, as she had no noticeable deficits and already 
had 24-hour care. She will continue her home medications. She 
will follow-up with stroke neurology (Dr. ___. 
- ___ consider switching to apixaban due to better combined 
efficacy and safety profile when compared to Coumadin. Such a 
decision should be made in conjunction with her cardiologist. 

=========================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 55 ) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
() non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - (x) No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Warfarin 2.5 mg PO 3X/WEEK (___) 
2. Warfarin 3.5 mg PO 4X/WEEK (___) 
3. Furosemide Dose is Unknown  PO DAILY 
4. Digoxin 0.125 mg PO 4X/WEEK (___) 
5. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY  
2.  Digoxin 0.125 mg PO 4X/WEEK (___)  
3.  Furosemide Dose is Unknown  PO DAILY  
4.  Warfarin 2.5 mg PO 3X/WEEK (___)  
5.  Warfarin 3.5 mg PO 4X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ACUTE ISCHEMIC STROKE

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  
 
You were hospitalized due to symptoms of right-sided weakness 
and decreased speech resulting from a POSSIBLE ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.  
 
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- Vascular disease
- Hypertension
 
We are not changing your medications. 
 
Please take your other medications as prescribed.  
 
Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___